US05880130
A mixture of 4-[4'-(ethoxycarbonylmethoxy)anilino]6-(3'-methylanilino)pyrimidine (0.30 g) and diethanolamine (0.5 g) in ethanol (10 ml) was refluxed for 8 hours. The product so obtained was chromatographed on silica to give 4-[4'-{N,N-di-(2-hydroxyethyl)carbamoylmethoxy}anilino]6-(3'-methylanilino)pyrimidine in 21% yield, m.p. 160°-162° C.;

reactant | 4-[4'-(ethoxycarbonylmethoxy)anilino]6-(3'-methylanilino)pyrimidine | 0.30 g | C(C)OC(=O)COC1=CC=C(NC2=NC=NC(=C2)NC2=CC(=CC=C2)C)C=C1 | C21H22N4O3
reactant | diethanolamine | 0.5 g | N(CCO)CCO | C4H11NO2
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 4-[4'-{N,N-di-(2-hydroxyethyl)carbamoylmethoxy}anilino]6-(3'-methylanilino)pyrimidine | 21% yield | OCCN(C(=O)COC1=CC=C(NC2=NC=NC(=C2)NC2=CC(=CC=C2)C)C=C1)CCO | C23H27N5O4
